US09145355B2
Preparation 6: Tert-butyl 2-(4-bromophenyl)azetidine-1-carboxylate
To a stirred solution of 2-(4-bromophenyl)azetidine (0.200 g, 2.19 mmol) in 1,4-dioxane (4 mL) is added BOC anhydride (0.193 g, 0.89 mmol). Potassium carbonate (0.134 g, 0.96 mmol) in water (1 mL) is added and allowed to stir to room temperature for 16 hours. The reaction mixture is concentrated in vacuo, and the resultant residue diluted with water and extracted with DCM. Organic layer is separated and concentrated to give the title compound (230 mg): m/z (Cl) M+H 311.

reactant | 2-(4-bromophenyl)azetidine | 2.19 mmol, 0.200 g | BrC1=CC=C(C=C1)C1NCC1 | C9H10BrN
reactant | BOC anhydride | 0.89 mmol, 0.193 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | Potassium carbonate | 0.96 mmol, 0.134 g | C([O-])([O-])=O.[K+].[K+]
solvent | 1,4-dioxane | 4 mL | O1CCOCC1 | C4H8O2
solvent | water | 1 mL | O | H2O
product | Tert-butyl 2-(4-bromophenyl)azetidine-1-carboxylate | 230 mg | BrC1=CC=C(C=C1)C1N(CC1)C(=O)OC(C)(C)C | C14H18BrNO2
